US08304415B2
1-(4-methylbenzamido)-2-[(2-piperidinoacetyl)amino]-anthraquinone (CC-39)
Compound CC-12 (0.86 g, 2 mmole) was dissolved in anhydrous tetrahydrofuran (30 ml), and to the solution was added successively with DIPEA (1 ml, 6 mmole) and piperidine (0.79 ml, 8 mmole) under stirring for 5 to 10 minutes. This mixture was heated under reflux for 16 hours. After the completion of the reaction, the mixture was filtered, and the filtrate was concentrated by reduced pressure concentrator (such as Vacuum Evaporator). The residue was extracted with ethyl acetate for several times. The extract was dried on magnesium sulfate, and concentrated under reduced pressure. The crude product was washed with ethyl acetate/hexane. Finally, the crude product was recrystallized in hot ethanol to obtain a kelly green compound CC-39. Mol. Wt.: 481.5424 (C29H27N3O4); Rf: 0.36 (ethyl acetate:n-hexane=1:2); Yield: 43%; Mp.: 213-214° C. (EtOH); HRMS (EI) m/z: calcd [M]+, 481.2002 (C29H27N3O4+); found, 481.2000; 1H-NMR (300 MHz, DMSO-d6) δ (ppm): 1.08 (d, J=3.6 Hz, 2H, —CH2—), 1.19 (br, 4H, —CH2—), 2.33 (br, 4H, —CH2—), 2.43 (s, 3H, —CH3), 3.07 (s, 2H, —CH2N—), 7.43 (d, J=7.8 Hz, 1H, Ar—H), 7.87-7.91 (m, 2H, Ar—H), 8.07-8.19 (m, 4H, Ar—H), 8.27 (d, J=8.7 Hz, 1H, Ar—H), 8.78 (d, J=8.7 Hz, 1H, Ar—H), 10.13 (s, 1H, Ar—NH—), 10.52 (s, 1H, Ar—NH—); 13C-NMR (75 MHz, DMSO-d6) δ (ppm): 20.85, 22.80, 24.79, 54.13, 62.39, 125.19, 126.27, 126.53, 126.89, 127.84, 127.92, 128.02, 129.00, 129.22, 130.57, 132.31, 134.13, 134.36, 134.42, 140.63, 142.40, 166.25 (NCO), 169.55 (NCO), 181.42 (CO), 183.67 (CO).

reactant | 1-(4-methylbenzamido)-2-(chloroacetamido)-anthraquinone | 2 mmole, 0.86 g | CC1=CC=C(C(=O)NC2=C(C=CC=3C(C4=CC=CC=C4C(C23)=O)=O)NC(CCl)=O)C=C1 | C24H17ClN2O4
reactant | DIPEA | 6 mmole, 1 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | piperidine | 8 mmole, 0.79 ml | N1CCCCC1 | C5H11N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | 1-(4-methylbenzamido)-2-[(2-piperidinoacetyl)amino]-anthraquinone | Yield: 43% | CC1=CC=C(C(=O)NC2=C(C=CC=3C(C4=CC=CC=C4C(C23)=O)=O)NC(CN2CCCCC2)=O)C=C1 | C29H27N3O4
